US09227985B2
0.5 M Ethyl lithium in benzene-cyclohexane (1.8 mL, 0.88 mmol) was added drop-wise to a solution of 5-nitro-3-pyridin-2-yl-2H-1,4-benzoxazine (0.025 g, 0.88 mmol) in tetrahydrofuran (4 mL), cooled to −78° C. The reaction was stirred for 1 h at −78° C. and was then quenched with methanol. The reaction mixture was partitioned between ethyl acetate and water, and the organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude product. The product was purified by FCC on silica gel eluting a hexane:ethyl acetate gradient to give 3-ethyl-5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine as a solid (0.021 g. 84%). LCMS calculated for C15H16N3O3 (M+H)+: m/z=286.1. found: 286.0.

reactant | Ethyl lithium | 0.5 M | C(C)[Li]
reactant | benzene cyclohexane | 0.88 mmol, 1.8 mL | C1=CC=CC=C1.C1CCCCC1
reactant | 5-nitro-3-pyridin-2-yl-2H-1,4-benzoxazine | 0.88 mmol, 0.025 g | [N+](=O)([O-])C1=CC=CC2=C1N=C(CO2)C2=NC=CC=C2 | C13H9N3O3
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 3-ethyl-5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine | C(C)C1(COC2=C(N1)C(=CC=C2)[N+](=O)[O-])C2=NC=CC=C2 | C15H15N3O3
